US08466289B2
Synthesis of the Title Compound; 3-Hydroxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-8-yl]-amide (25A)
1M BCl3 (0.46 mL, 0.468 mmol) was added to a solution of 3-benzyloxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-8-yl]-amide (0.1 g, 0.156 mmol) in dry DCM (3 mL) at −78° C. The resulting mixture was stirred at −78° C. for 3 hours. The reaction was monitored by TLC (10% MeOH in CHCl3). The reaction mixture was quenched with methanol, basified with saturated NaHCO3 solution and extracted with DCM. The organic layer was washed with brine, dried over Na2SO4 and concentrated. Purification by column chromatography on silica gel (4% MeOH in CHCl3), followed by preparative HPLC afforded 0.015 g of the product (18% yield).

reactant | BCl3 | 0.468 mmol, 1M, 0.46 mL | B(Cl)(Cl)Cl | BCl3
reactant | 3-benzyloxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-8-yl]-amide | 0.156 mmol, 0.1 g | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCS2)NS(=O)(=O)C2CC(C2)OCC2=CC=CC=C2 | C25H25FIN3O4S2
reactant | MeOH | CO | CH4O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-Hydroxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-thiazolo[3,2-a]pyridin-8-yl]-amide | 0.015 g, 18% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCS2)NS(=O)(=O)C2CC(C2)O | C18H19FIN3O4S2
